US07652021B2
(i) tert-Butyl(3-hydroxy-1-adamantyl)carbamate
2.51 g (15 mmole) of 3-hydroxy-1-aminoadamantane (Pharm. Chem. J. (Engl. Trans.) 1990, 24, 35) are dissolved in the mixture of 15 ml of dioxane, 15 ml of water and 15 ml of 1N sodium hydroxide solution, then under cooling and stirring 4.91 g (22.5 mmole) of di-tert-butyl dicarbonate are added. The mixture is stirred at room temperature for 16 hours, the solution is evaporated, and the residue is dissolved in the mixture of 50 ml of ethyl acetate and 50 ml of water. Following extraction and separation of the phases, the organic phase is dried over sodium sulphate. After evaporation the white crystalline residue is treated with n-hexane, to obtain 2.61 g (65%) of product. M.p.: 131-132° C. 1H-NMR.: (DMSO-d6): 1.36 (s, 9H), 1.41 (s, 2H), 1.48 (d, 4H), 1.70 (d, 6H), 2.10 (bs, 2H), 4.43 (s, 1H), 6.41 (s, 1H).

reactant | 3-hydroxy-1-aminoadamantane | 15 mmole, 2.51 g | OC12CC3(CC(CC(C1)C3)C2)N | C10H17NO
reactant | di-tert-butyl dicarbonate | 22.5 mmole, 4.91 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 15 ml | O | H2O
solvent | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
product | tert-Butyl(3-hydroxy-1-adamantyl)carbamate | 2.61 g, 65% | C(C)(C)(C)OC(NC12CC3(CC(CC(C1)C3)C2)O)=O | C15H25NO3
